US07956069B2
The preparation of 4-(2-oxo-octahydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid benzyl ester
To a solution of compound {4-(2-aminocyclohexylamino)-piperidine-1-carboxylic acid benzyl ester)} (1.48 g, 4.47 mmoles) in acetonitrile (50 mL), 1,1′-carbonyldiimidazole (0.86 g, 5.36 mmole) was added and the reaction mixture was stirred at room temperature for 18 h. Reaction mixture was concentrated under reduced pressure, dissolved again in dichloromethane (60 mL) washed with water (2×100 mL) and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give the title compound as a solid (1.45 g, 90%). MS: (M+1): 358.13

reactant | 4-(2-aminocyclohexylamino)-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC1C(CCCC1)N | C19H29N3O2
reactant | 1,1′-carbonyldiimidazole | 5.36 mmole, 0.86 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-(2-oxo-octahydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid benzyl ester | 1.45 g, 90% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1C(NC2C1CCCC2)=O | C20H27N3O3
